US04115568
(w) 2-(2-Aminoanilino)-5-ethyl-thiophene-3-carboxylic acid
5-Ethyl-2-(2-nitroanilino)-thiophene-3-carboxylic acid (8.0 g, 0.027 mol) in ethanol (150 ml) was catalytically reduced over 10% palladium on charcoal (900 mg) at 60 p.s.i. The catalyst was removed by filtration and the solvent removed by distillation in vacuo to give the title compound.

reactant | 5-Ethyl-2-(2-nitroanilino)-thiophene-3-carboxylic acid | 0.027 mol, 8.0 g | C(C)C1=CC(=C(S1)NC1=C(C=CC=C1)[N+](=O)[O-])C(=O)O | C13H12N2O4S
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 900 mg | [Pd] | Pd
product | 2-(2-Aminoanilino)-5-ethyl-thiophene-3-carboxylic acid | NC1=C(NC=2SC(=CC2C(=O)O)CC)C=CC=C1 | C13H14N2O2S
